US03950393
24 gm of N-methyl-cyclohexylamine were added to 23 gm of 2-acetylamino-5-tert.butyl-benzylbromide in 1.6 liters of carbon tetrachloride, and the mixture was refluxed for 1 hour. After cooling, the precipitated N-methyl-cyclohexylamine hydrobromide was filtered off, the filtrate was evaporated, and the crude product was purified chromatographically on silicagel with ethyl acetate. The corresponding fractions were combined and evaporated, and the 2-acetylamino-5-tert.butyl-N-cyclohexyl-N-methyl-benzylamine thus obtained was recrystallized from petroleum ether, whereupon it had a melting point of 111°-112.5°C.

reactant | N-methyl-cyclohexylamine | 24 gm | CNC1CCCCC1 | C7H15N
reactant | 2-acetylamino-5-tert.butyl-benzylbromide | 23 gm | C(C)(=O)NC1=C(CBr)C=C(C=C1)C(C)(C)C | C13H18BrNO
solvent | carbon tetrachloride | 1.6 liters | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-acetylamino-5-tert.butyl-N-cyclohexyl-N-methyl-benzylamine | C(C)(=O)NC1=C(CN(C)C2CCCCC2)C=C(C=C1)C(C)(C)C | C20H32N2O
